US08420851B2
To 4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenylamine (71.8 g, 0.21 mol) was added ethyl bromoacetate (35.26 g, 0.21 mol) and diisopropylethyl amine (27.92 g, 0.21 mol) in DMF (718 mL) were stirred at 120° C. for 18 h. The reaction mixture was poured in to ice-water. The product was taken up in ethyl acetate, washed with H2O, brine & dried over sodium sulphate, filtered and concentrated to give the crude product. The crude product was purified by column chromatography over flash silica gel (Hexane:Ethylacetate 90:10) to afford the pure product [4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenylamino]-acetic acid ethyl ester. (48.0 g, 54% yield)

reactant | 4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenylamine | 0.21 mol, 71.8 g | C(C)(CC)C=1C=C(OC2=C(C=C(C=C2Cl)N)Cl)C=CC1OC | C17H19Cl2NO2
reactant | ethyl bromoacetate | 0.21 mol, 35.26 g | BrCC(=O)OCC | C4H7BrO2
reactant | diisopropylethyl amine | 0.21 mol, 27.92 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 718 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenylamino]-acetic acid ethyl ester | 54% yield | C(C)OC(CNC1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)CC)Cl)=O | C21H25Cl2NO4
